US04354973
8-Chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid ethyl ester
To a solution of 1.4 g (12.4 mmole) of potassium t-butoxide in 30 ml of dry dimethylformamide was added 2.4 g (8.2 mmole) of 8-chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine. The mixture was cooled to 0°, and stirred for 10 min. To the mixture was added 1.3 mol (11.7 mmole) of ethyl bromoacetate. The mixture was stirred at 0° for 45 min, diluted with water, and extracted with ether. The ether solution was washed with water, dried with sodium sulfate, and concentrated at reduced pressure to give a yellow oil. Purification by column chromatography (70 g SiO2, 9:1 methylene chloride/ether) gave as the first major component a yellow oil.

reactant | potassium t-butoxide | 12.4 mmole, 1.4 g | CC(C)([O-])C.[K+]
reactant | 8-chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | 8.2 mmole, 2.4 g | ClC1=CC2=C(C=3C(CN=C2C2=CC=CC=C2)=CNC3)C=C1 | C18H13ClN2
reactant | ethyl bromoacetate | 1.3 mol | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-Chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetic acid ethyl ester | C(C)OC(CN1C=C2CN=C(C3=C(C2=C1)C=CC(=C3)Cl)C3=CC=CC=C3)=O | C22H19ClN2O2
